US08242133B2
A mixture of 2.84 g of 2-amino-4-trifluoromethylphenol, 1.97 g of isonicotinic acid, 3.69 g of WSC [1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride] and 20 ml of pyridine was stirred while heating at 80° C. for four hours. The reaction mixture was cooled to room temperature, and then water was poured, followed by extraction with ethyl acetate twice. The combined organic layers were washed with water and a saturated sodium chloride solution, dried over magnesium sulfate, and then concentrated under reduced pressure. The residue was washed with an ethyl acetate-hexane mixture solvent to give 1.69 g of N-(2-hydroxy-5-trifluoromethylphenyl)isonicotinamide.

reactant | 2-amino-4-trifluoromethylphenol | 2.84 g | NC1=C(C=CC(=C1)C(F)(F)F)O | C7H6F3NO
reactant | isonicotinic acid | 1.97 g | C(C1=CC=NC=C1)(=O)O | C6H5NO2
reactant | WSC | 3.69 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | N-(2-hydroxy-5-trifluoromethylphenyl)isonicotinamide | 1.69 g | OC1=C(C=C(C=C1)C(F)(F)F)NC(C1=CC=NC=C1)=O | C13H9F3N2O2
